US04328202
12.3 g of 3,5-bis(N-methylcarbamoyl)-2,4,6-triiodobenzoic acid amide is suspended in 80 ml of glacial acetic acid. Under agitation, a mixture of 1.66 g of sodium nitrite in 12 ml of concentrated sulfuric acid (prepared under ice cooling) is added in small portions at room temperature; during this step the temperature rises from 24° C. to 42° C. The mixture is then stirred for 3 hours at room temperature, 30 minutes at 50° C., and 90 minutes at 70° C. After agitating overnight at room temperature, the reaction mixture is stirred into 400 ml of water. The precipitate is vacuum-filtered after 4 hours, washed with water, and dried at 50° C. under vacuum. The crude product (11.9 g) is dissolved in 110 ml of water and 12 ml of 2 N sodium hydroxide solution, adjusted to pH 6.5 with 2 N acetic acid, and stirred for 30 minutes with 1 g of carbon. After the carbon has been removed by vacuum-filtering, the solution is precipitated with 16 ml of 2 N hydrochloric acid. After vacuum-filtering and drying at 50° C. under vacuum, 10.7 g (87% of theory) of 3,5-bis(N-methylcarbamoyl)-2,4,6-triiodobenzoic acid is obtained, mp>300° C.

reactant | 3,5-bis(N-methylcarbamoyl)-2,4,6-triiodobenzoic acid amide | 12.3 g | CNC(=O)C=1C(=C(C(=O)N)C(=C(C1I)C(NC)=O)I)I | C11H10I3N3O3
reactant | sodium nitrite | 1.66 g | N(=O)[O-].[Na+]
reactant | water | 400 ml | O | H2O
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
solvent | sulfuric acid | 12 ml | S(O)(O)(=O)=O | H2O4S
product | 3,5-bis(N-methylcarbamoyl)-2,4,6-triiodobenzoic acid | 10.7 g, 87% | CNC(=O)C=1C(=C(C(=O)O)C(=C(C1I)C(NC)=O)I)I | C11H9I3N2O4
